US04208502
Preparation of Bis(2-hydroxyethyl)Tetrachloroterephthalate
A mixture of 34 grams of tetrachloroterephthaloyl chloride in 85 ml. of tetrahydrofuran and 100 ml. of dioxane are charged to a 500 ml. flask. About 75 grams of ethylene glycol is added dropwise to the solution. This is followed by dropwise addition of 20 grams of pyridine over a period of one hour. The reaction mixture is stirred for 24 hours, and then the volume concentrated by distillation up to a temperature of about 120° C.

reactant | tetrachloroterephthaloyl chloride | 34 grams | ClC1=C(C(=C(C(=C1C(=O)Cl)Cl)Cl)C(=O)Cl)Cl | C8Cl6O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | ethylene glycol | 75 grams | C(CO)O | C2H6O2
solvent | pyridine | 20 grams | N1=CC=CC=C1 | C5H5N
product | Bis(2-hydroxyethyl)Tetrachloroterephthalate | OCCOC(C1=C(C(=C(C(=O)OCCO)C(=C1Cl)Cl)Cl)Cl)=O | C12H10Cl4O6
